US07138413B1
5-Piperidinopentylamine
5-Chlorovaleronitrile (10 mmol), 20 mmol of piperidine, 20 mmol of potassium carbonate and a catalytic amount of potassium iodide in 50 ml of ethanol were refluxed for 6 hours. The solvent was removed under reduced pressure, the residue suspended in water and extracted with methylene chloride. The organic layer was purified by column chromatography on silica gel using methylene chloride/methanol/aqueous ammonia (90/10/1) as eluent (Yield: 59%). The product was added dropwise to a suspension of 25 mmol of lithium aluminium hydride in 25 ml of dry tetrahydrofurane at 0° C. After refluxing for 1 hour 10 ml of a saturated solution of sodium/potassium tartrate in water was added dropwise. The residue was filtered off and the filtrate purified by column chromatography on silica gel using methylene chloride/methanol/aqueous ammonia (90/10/1) as eluent. The residue was crystallized with hydrochloric acid from diethyl ether/2-propanol.

reactant | 5-Chlorovaleronitrile | 10 mmol | ClCCCCC#N | C5H8ClN
reactant | piperidine | 20 mmol | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 20 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | lithium aluminium hydride | 25 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium potassium tartrate | [Na].C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofurane | 25 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-Piperidinopentylamine | Yield: 59% | N1(CCCCC1)CCCCCN | C10H22N2
